US06124281
(a) Ethyl 4-(4-chloro-2-nitrophenyl)-4-oxo-2-butynoate
To a solution of ethyl 4-(4-chloro-2-nitrophenyl)-4- hydroxy-2-butynoate (7.46 g, 26.3 mmoles) in dichloromethane (350 mL) cooled in an ice-bath was added manganese dioxide (26.2 g, 301.3 mmol). The reaction mixture was stirred for 20 minutes and then was allowed to warm to room temperature. The reaction mixture was stirred at room temperature for 130 minutes and then was filtered twice through a pad of CELITE™. The filtrate was purified by flash chromatography on silica gel (195 g), eluting with dichloromethane, to afford 3.80 g (51%) of the title compound as a brownish-orange oil.

reactant | ethyl 4-(4-chloro-2-nitrophenyl)-4- hydroxy-2-butynoate | 26.3 mmoles, 7.46 g | ClC1=CC(=C(C=C1)C(C#CC(=O)OCC)O)[N+](=O)[O-] | C12H10ClNO5
solvent | dichloromethane | 350 mL | ClCCl | CH2Cl2
catalyst | manganese dioxide | 301.3 mmol, 26.2 g | [O-2].[O-2].[Mn+4]
product | Ethyl 4-(4-chloro-2-nitrophenyl)-4-oxo-2-butynoate | 3.80 g, 51% | ClC1=CC(=C(C=C1)C(C#CC(=O)OCC)=O)[N+](=O)[O-] | C12H8ClNO5
